US08030489B2
To a mixture of methyl (1R,2S)-2-[(N5-[(benzyloxy)carbonyl]-N2-{3-[2-(tetrahydro-2H-pyran-2-yloxy)ethoxy]benzoyl}-L-ornithyl)amino]cyclopentanecarboxylate (0.64 g), methanol (10 ml), and methylene chloride (6.0 ml) was added p-toluenesulfonic acid monohydrate (0.22 g) under ice-cooling, followed by stirring at room temperature over one night. The reaction mixture was concentrated under reduced pressure, and ethyl acetate was added to the residue, followed by washing with water. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain methyl (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-[3-(2-hydroxyethoxy)benzoyl]-L-ornithyl}amino)cyclopentanecarboxylate (0.39 g).

reactant | methyl (1R,2S)-2-[(N5-[(benzyloxy)carbonyl]-N2-{3-[2-(tetrahydro-2H-pyran-2-yloxy)ethoxy]benzoyl}-L-ornithyl)amino]cyclopentanecarboxylate | 0.64 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(C1=CC(=CC=C1)OCCOC1OCCCC1)=O)C(=O)N[C@@H]1[C@@H](CCC1)C(=O)OC | C34H45N3O9
reactant | methanol | 10 ml | CO | CH4O
reactant | p-toluenesulfonic acid monohydrate | 0.22 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methylene chloride | 6.0 ml | C(Cl)Cl | CH2Cl2
product | methyl (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-[3-(2-hydroxyethoxy)benzoyl]-L-ornithyl}amino)cyclopentanecarboxylate | 0.39 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(C1=CC(=CC=C1)OCCO)=O)C(=O)N[C@@H]1[C@@H](CCC1)C(=O)OC | C29H37N3O8
